US09193669B2
A mixture of (E)-N-(3-(3-aminophenyl)allyl)-2,2,2-trifluoroacetamide (0.8 g, 3.28 mmol) and 1-oxaspiro[2.5]octane (0.55 g, 4.91 mmol) in EtOH:H2O(9:1) was stirred under reflux for 36 hrs and concentrated under reduced pressure. Purification by column chromatography (20% to 30% EtOAc—hexanes gradient) gave (E)-2,2,2-trifluoro-N-(3-(3-((1-hydroxycyclohexyl)methylamino)phenyl)allyl)acetamide as an off-white solid. Yield (0.5 g, 43%); 1H NMR (400 MHz, DMSO-d6) δ 9.71 (s, 1H), 7.00 (t, J=8.0 Hz, 1H), 6.67 (s, 1H), 6.55 (t, J=8.8 Hz, 2H), 6.41 (d, J=16.0 Hz, 1H), 6.61-6.09 (m, 1H), 5.22 (t, J=5.2 Hz, 1H), 4.20 (s, 1H), 3.95 (t, J=5.2 Hz, 2H), 2.94 (d, J=5.6, 2H), 1.61-1.49 (m, 5H), 1.41-1.36 (m, 4H), 1.25-1.19 (m, 1H).

reactant | (E)-N-(3-(3-aminophenyl)allyl)-2,2,2-trifluoroacetamide | 3.28 mmol, 0.8 g | NC=1C=C(C=CC1)/C=C/CNC(C(F)(F)F)=O | C11H11F3N2O
reactant | 1-oxaspiro[2.5]octane | 4.91 mmol, 0.55 g | O1CC12CCCCC2 | C7H12O
solvent | EtOH H2O | CCO.O
product | (E)-2,2,2-trifluoro-N-(3-(3-((1-hydroxycyclohexyl)methylamino)phenyl)allyl)acetamide | FC(C(=O)NC\C=C\C1=CC(=CC=C1)NCC1(CCCCC1)O)(F)F | C18H23F3N2O2
